US05268389
1-Methylethyl 5-(benzoylamino)-2-chloro-4-fluorobenzoate (Compound 18)
A solution of benzoyl chloride (2.94 g, 0.021 mole) and 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate (4.62 g, 0.020 mole) in methyl ethyl ketone (50 ml) was stirred at room temperature for 3 days. Evaporation of the solvent and crystallization of the solid residue from ethyl ether gave colorless needles, m.p. 117°-119° C. (6 g, 90% yield).

reactant | benzoyl chloride | 0.021 mole, 2.94 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate | 0.020 mole, 4.62 g | NC=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C10H11ClFNO2
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 1-Methylethyl 5-(benzoylamino)-2-chloro-4-fluorobenzoate | 90% yield | C(C1=CC=CC=C1)(=O)NC=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C17H15ClFNO3
